US04017522
N-methyl-N-(2-benzoyloxyethyl)palmitamide
N-methyl-N-(2-benzoyloxyethyl)palmitamide was prepared by the procedure of example 1 from 31 gms. (0.1 mole) of N-methyl-N-(2-hydroxyethyl)palmitamide and 14 gms. (0.1 mole) of benzoyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N-methyl-N-(2-hydroxyethyl)palmitamide | 0.1 mole | CN(C(CCCCCCCCCCCCCCC)=O)CCO | C19H39NO2
reactant | benzoyl chloride | 0.1 mole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-methyl-N-(2-benzoyloxyethyl)palmitamide | CN(C(CCCCCCCCCCCCCCC)=O)CCOC(C1=CC=CC=C1)=O | C26H43NO3
